US04052404
10.0 g. (28.5 mmoles) of 1-ethyl-2,3,4,6,7,12-hexahydro-indolo(2,3 -a)quinolizinium perchlorate are dissolved in 100 ml. of dichloromethane, and 75 ml. of distilled water and 20 ml. of 2 n sodium hydroxide are added to the solution under constant stirring in argon atmosphere. The reaction mixture is stirred for 10 minutes, thereafter the organic phase is separated and dried over anhydrous potassium carbonate. The drying agent is filtered off, 10 ml. (142 mmoles) of freshly distilled acrylonitrile are added to the filtrate, the mixture is flushed with argon, and allowed to stand at room temperature for 2 days, during which period the solution darkens considerably. Thereafter the solution is evaporated in vacuo under argon atmosphere (bath temperature: maximum 40° to 50° C). The residual dark red oil is triturated with 5 ml. of methanol, and the formed orange-red crystals are filtered off. The thus-obtained crude product, weighing 8.10 g., is recrystallized from 15-fold volume of methanol. 7.30 g. (79.4 %) of crystalline (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizin-1-yl)-propionitrile are obtained; m.p.: 122-123° C.

reactant | 1-ethyl-2,3,4,6,7,12-hexahydro-indolo(2,3 -a)quinolizinium perchlorate | 28.5 mmoles | Cl(=O)(=O)(=O)[O-].C(C)C1CCC[N+]=2CCC3=C(C12)NC1=CC=CC=C13
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizin-1-yl)-propionitrile | 79.4 % | C(C)C1(CCCN2CCC=3C(=C12)N=C1C=CC=CC13)C(C#N)C | C20H23N3
